US06624160B2
Ethyl 3-(2-fluoro-5-iodophenyl)-3-oxopropanoate
To a solution of 2-fluoro-5-iodobenzoic acid (Prep. 1, 4.03 g) in 11 mL freshly distilled THF is added 1,1-carbonyldiimidazole (CDI) (2.96 g) in small portions. Vigorous gas evolution is observed. The reaction is stirred overnight. In a separate flask, ethyl malonate potassium salt (2.84 g) is suspended in 10 mL CH3CN. To this solution is added chlorotrimethylsilane (2.15 mL) and the reaction is stirred at room temperature overnight. The latter reaction is cooled to 0° C. and DBU (5.00 mL) is added dropwise. This reaction is stirred at 0° C. for 3 h. The solution of the CDI adduct is then cannulated over and the mixture is stirred at 0° C. for 2 h. Upon complete conversion to product as evidenced by TLC, the solution is quenched with water and 6N HCl (8 mL). The reaction is partitioned with diethyl ether. The organic layer is washed with 1N HCl and then brine, dried over Na2SO4, filtered, and concentrated to give a light orange oil. The oil is dissolved in EtOAc and adsorbed onto silica. Purification by chromatography (eluent 3% EtOAc/hexanes) affords the desired product as a colorless oil which crystallized upon standing (2.51 g, 49%). Physical characteristics are as follows: m.p. 54-56° C.; 1H NMR (300 MHz, CDCl3) δ12.67, 8.18, 7.70, 6.89, 5.54, 4.28, 1.35; IR (drift) 2984, 1627, 1558, 1476, 1422, 1390, 1358, 1292, 1262, 1221, 1201, 1071, 1028, 823, 807 cm−1; MS (EI) m/z 336 (M+), 336, 249, 122, 107, 94, 86, 84, 69, 68, 51; Anal. Calcd for C11H10FIO3: C, 39.31; H, 3.00; Found: C, 39.35; H, 2.92.

reactant | 2-fluoro-5-iodobenzoic acid | 4.03 g | FC1=C(C(=O)O)C=C(C=C1)I | C7H4FIO2
reactant | ethyl malonate potassium salt | 2.84 g | [K+].C(CC(=O)[O-])(=O)OCC
reactant | chlorotrimethylsilane | 2.15 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | DBU | 5.00 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl 3-(2-fluoro-5-iodophenyl)-3-oxopropanoate | FC1=C(C=C(C=C1)I)C(CC(=O)OCC)=O | C11H10FIO3
